US06248739B1
N-(4-Chlorobenzyl)-1-[2-(2-hydroxyethoxy)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide (0.37 gm) from Preparation No. 5 in DMF (10 mL) is treated with potassium carbonate (2.75 gm), potassium iodide (1.66 gm) and 2-(2-chloroethoxy)ethanol (1.0 mL). The mixture is tightly capped and heated to 100° C. for 48 hrs. The reaction mixture is allowed to cool to room temperature, poured into water and extracted with dichloromethane. The layers are separated and the aqueous layer is re-extracted with dichloromethane containing a small amount of methanol and finally again with dichloromethane. The combined organic layers are washed with brine, dried (Na2SO4) and concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with 3% to 15% methanol in dichloromethane and then by recrystallization from methanol to afford 82 mg of the title compound as a light yellow solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | 0.37 gm | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | potassium carbonate | 2.75 gm | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.66 gm | [I-].[K+]
reactant | 2-(2-chloroethoxy)ethanol | 1.0 mL | ClCCOCCO | C4H9ClO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-Chlorobenzyl)-1-[2-(2-hydroxyethoxy)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 82 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCOCCO)C=C1 | C24H23ClN2O5
